US05117057
Preparation of N'-t-butyl--N-(thiobenzoyl)-N'-(3-toluoyl)hydrazine
N't-butyl-N-(thiobenzoyl)hydrazine (ca. 1 g), m-toluoyl chloride (approx. 0.7 g) and 50% aqueous sodium hydroxide (6 drops) were mixed in 1 ml water and 10 ml toluene at 23° C. After stirring for 3 hours, ether-hexane was added and the product was isolated by filtration (0.25 g). m.p. 165°-168° C.

reactant | N't-butyl-N-(thiobenzoyl)hydrazine | ca. 1 g | C(C)(C)(C)NNC(C1=CC=CC=C1)=S | C11H16N2S
reactant | m-toluoyl chloride | approx. 0.7 g | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | sodium hydroxide | 6 drops | [OH-].[Na+]
solvent | water | 1 ml | O | H2O
product | N'-t-butyl--N-(thiobenzoyl)-N'-(3-toluoyl)hydrazine | C(C)(C)(C)N(NC(C1=CC=CC=C1)=S)C(=O)C=1C=C(C=CC1)C | C19H22N2OS
